US09422331B2
To a rt solution of (3S,4S)-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (100 mg, 190 μmol) in DMF (632 μl) was added (S)-2-(tert-butoxycarbonyl(ethyl)amino)propanoic acid (45.3 mg, 209 μmol), N,N-diisopropylethylamine (131 μl, 759 μmol), and HBTU (79.2 mg, 209 μmol). The reaction was stirred at rt for 30 min, then purified by reverse phase preparative HPLC to provide tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(ethyl)carbamate (105 mg, 80%) as a white solid. MS m/z 712 (MNa)+.

reactant | (3S,4S)-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 190 μmol, 100 mg | Cl.N[C@H]1[C@@H](N(C2=C(N(C1=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N)C(CS(=O)(=O)C)=O)C
reactant | (S)-2-(tert-butoxycarbonyl(ethyl)amino)propanoic acid | 209 μmol, 45.3 mg | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)CC | C10H19NO4
reactant | N,N-diisopropylethylamine | 759 μmol, 131 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 209 μmol, 79.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 632 μl | CN(C)C=O | C3H7NO
product | tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(ethyl)carbamate | 105 mg, 80% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)N(C(OC(C)(C)C)=O)CC)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C36H43N5O7S
